US05606051
1-(2-t-Butyldimethylsilyloxyethyl)-5-methylpyrazole-3-carboxylic acid
The title compound was prepared from ethyl 1-(2-t-butyldimethylsilyloxyethyl)-5-methylpyrazole-3-carboxylate (16.08 g, 51.5 mM) as described in Example 4 Preparation 2 as a white solid (10.5 g, 72%); νmax (KBr) 1688, 1648, 1533 and 1505 cm-1 ; δH (CDCl3) -0.10 (6H, s), 0.81 (9H, s), 2.35 (3H, s), 4.00 (2H, t, J5 Hz), 4.24 (2H, t, J5 Hz),6.60 (1H, s); NH3DCI m/e 285 (100%).

reactant | ethyl 1-(2-t-butyldimethylsilyloxyethyl)-5-methylpyrazole-3-carboxylate | 51.5 mM, 16.08 g | [Si](C)(C)(C(C)(C)C)OCCN1N=C(C=C1C)C(=O)OCC | C15H28N2O3Si
reactant | KBr | [K+].[Br-]
product | 1-(2-t-Butyldimethylsilyloxyethyl)-5-methylpyrazole-3-carboxylic acid | [Si](C)(C)(C(C)(C)C)OCCN1N=C(C=C1C)C(=O)O | C13H24N2O3Si
